US06756378B2
To a stirred solution of methyl 4-(1-amino-2-methyl-2-propoxy)benzoate (370 mg, 1.66 mmol) and triethylamine (0.35 mL, 2.49 mmol) in CH2Cl2 (15 mL) was added trifluoroacetic anhydride (0.316 mL, 2.24 mmol) at 0° C. After stirred for 1 hr at the same temp, water was added to the solution. CH2C2 layer was separated, washed with water, dried over Na2SO4, and evaporated. The residue was chromatographed on silica-gel (20 mL) with CH2Cl2 as eluent to give 530 mg (100%) methyl 4-(1-trifluoroacetamido-2-methyl-2-propoxy)benzoate as a gum. This compound was used to the subsequent reaction without further purification.

reactant | methyl 4-(1-amino-2-methyl-2-propoxy)benzoate | 1.66 mmol, 370 mg | NCC(C)(OC1=CC=C(C(=O)OC)C=C1)C | C12H17NO3
reactant | triethylamine | 2.49 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 2.24 mmol, 0.316 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | O | H2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-(1-trifluoroacetamido-2-methyl-2-propoxy)benzoate | 530 mg, 100% | FC(C(=O)NCC(C)(OC1=CC=C(C(=O)OC)C=C1)C)(F)F | C14H16F3NO4
